US05387595
Step B) 2-Phenyl-2-cyclohexenone
A suspension of 4.97 g (19.6 mmole) of 2-bromo-6-phenylcyclohexanone in 120 mL of di-n-butyl ether was heated at 175° C. for 7 hours, at which point evolution of gaseous HBr had essentially ceased. The mixture was concentrated in vacuo and the residue purified by flash chromatography with 75:25 methylene chloride: hexanes to provide 2.69 g (80%) of a white solid.

reactant | 2-bromo-6-phenylcyclohexanone | 19.6 mmole, 4.97 g | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
reactant | HBr | Br | BrH
solvent | di-n-butyl ether | 120 mL | C(CCC)OCCCC | C8H18O
product | 2-Phenyl-2-cyclohexenone | 2.69 g, 80% | C1(=CC=CC=C1)C=1C(CCCC1)=O | C12H12O
